US07807720B2
(R)-3-((E)-8-methylnon-6-enoyl)-4-benzyloxazolidin-2-one (A3)
To a cooled (−78° C.) solution of (R)-4-benzyloxazolidin-2-one (2.817 g, 15.899 mmol) in 40 mL of THF, was added n-BuLi (6.4 mL, 15.899 mmol, 2.5 M in hexane). The resulting mixture was stirred at −78° C. under N2 for 15 min. and then (E)-8-methylnon-6-enoyl chloride (3.000 g, 15.899 mmol) was added. After stirring at −78° C. for 1 h and then being warmed to room temperature under N2 for overnight, the reaction mixture was quenched with 80 mL of NH4Cl solution and extracted with dichloromethane (60 mL×3). The combined organic extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure. The product was isolated by Flash column chromatography (silica gel column) eluting with 0-30% ethyl acetate/hexanes to give the title compound as colorless oil (4.468 g, 85% yield). GC-MS: tR=6.2 min; m/z 329 (M+).

reactant | (R)-4-benzyloxazolidin-2-one | 15.899 mmol, 2.817 g | C(C1=CC=CC=C1)[C@H]1NC(OC1)=O | C10H11NO2
reactant | n-BuLi | 15.899 mmol, 2.5 M, 6.4 mL | [Li]CCCC
reactant | (E)-8-methylnon-6-enoyl chloride | 15.899 mmol, 3.000 g | CC(/C=C/CCCCC(=O)Cl)C | C10H17ClO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (R)-3-((E)-8-methylnon-6-enoyl)-4-benzyloxazolidin-2-one | 4.468 g, 85% yield | CC(/C=C/CCCCC(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)C | C20H27NO3
